US07022650B2
0.114 g of 4-trifluoromethylpyrazole is introduced in 5 ml of dimethylacetamide under nitrogen and at 0° C. 0.028 g of NaH is added. The mixture is allowed to come to RT over 30 min and then 0.2 g of 2-fluoro-6-(2-trifluormethyl-4-thienyloxy)pyridine is added and the mixture is heated at 80° C. for 9 h, cooled to RT and poured into water. After threefold extraction with ethyl acetate the product is washed with water and saturated sodium chloride solution, dried over MgSO4 and concentrated. Chromatographic purification on silica gel with heptane/ethyl acetate (3:7) as eluent gives 0.043 g of 2-(4-trifluoromethylpyrazol-1-yl)-6-(2-trifluoromethyl-4-thienyloxy)pyridine as colorless crystals.

reactant | 4-trifluoromethylpyrazole | 0.114 g | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | NaH | 0.028 g | [H-].[Na+]
reactant | 2-fluoro-6-(2-trifluormethyl-4-thienyloxy)pyridine | 0.2 g | FC1=NC(=CC=C1)OC=1C=C(SC1)C(F)(F)F | C10H5F4NOS
reactant | water | O | H2O
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 2-(4-trifluoromethylpyrazol-1-yl)-6-(2-trifluoromethyl-4-thienyloxy)pyridine | 0.043 g | FC(C=1C=NN(C1)C1=NC(=CC=C1)OC=1C=C(SC1)C(F)(F)F)(F)F | C14H7F6N3OS
